US05736539
2,3-Dihydrobenzofuran-7-carboxylic acid
A solution of dihydrocoumarin (0.338 mL, 3.00 mmol) in dry diethyl ether (10 mL) was cooled to -78° C. and a solution of n-butyllithium in hexane (2.38M, 1.30 mL, 3.00 mmol) was slowly added. The reaction was stirred at 20° C. overnight. The reaction was cooled to -78° C. and carbon dioxide was bubbled through for 10 min. The reaction was warmed to 20° C. and partitioned between water and ether. A solution of 10% aqueous HCl was added to the aqueous phase until the pH was less than 1. The aqueous phase was washed with ether, and the ether washed with saturated sodium chloride solution. The title compound was obtained as a white solid (0.175 g). NMR (CDCl3, 300 MHz) δ 7.83 (1H, d, J=8 Hz), 7.42 (1H, d, J=8 Hz), 6.96 (1H, t, J=8 Hz), 4.80 (2H, t, J=8 Hz), 3.30 (2H, t, J=8 Hz).

reactant | dihydrocoumarin | 3.00 mmol, 0.338 mL | C=1C=CC2=C(C1)CCC(=O)O2 | C9H8O2
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 3.00 mmol, 2.38M, 1.30 mL | CCCCCC | C6H14
reactant | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | 2,3-Dihydrobenzofuran-7-carboxylic acid | O1CCC2=C1C(=CC=C2)C(=O)O | C9H8O3
